US06846819B1
b) 1-(tert-Butoxycarbonyl)-1,2,3,4-tetrahydro-1,8-naphthyridine
To a solution of 1,2,3,4-tetrahydro-1,8-naphthyridine (1.04 g. 7.68 mmole) and di-tert-butyl dicarbonate (2.01 g. 9.22 mmole) in dry THF (40 mL) was added a solution of LiHMDS in THF (1.0 M, 9.22 mL, 9.22 mmole) dropwise at 0° C. After 30 min the mixture was quenched with saturated NH4Cl and extracted with EtOAc (3x). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash chromatography on silica gel (40% EtOAc/hexanes) gave the title compound (1.37 g, 76% over 2 steps) as an orange oil which solidified under vacuum: 1H NMR (400 MHz, CDCl3) δ 8.33 (m, 1 H), 7.37 (m, 1 H), 6.94 (m, 1 H), 3.77 (m, 2 H), 2.75 (t, J=6.5 Hz, 2 H), 1.93 (m, 2 H), 1.54 (s, 9H).

reactant | 1,2,3,4-tetrahydro-1,8-naphthyridine | 7.68 mmole, 1.04 g | N1CCCC2=CC=CN=C12 | C8H10N2
reactant | di-tert-butyl dicarbonate | 9.22 mmole, 2.01 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 9.22 mmole, 1.0 M, 9.22 mL | C1CCOC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)-1,2,3,4-tetrahydro-1,8-naphthyridine | 1.37 g, 76% | C(C)(C)(C)OC(=O)N1CCCC2=CC=CN=C12 | C13H18N2O2
